US04088652
Preparation of 3-(5-Norbornen-2-ylcarbonyl)-1-(p-chlorophenyl)-3-azabicyclo[3.1.0]hexane
Following the procedure of Example 8, 19.53 g. of 1-p-chlorophenyl-3-azabicyclo[3.1.0]hexane, 10.59 g. of sodium carbonate and 5-norbornene-2-carbonyl chloride are reacted to give the product as a light brown-yellow oily gum.

reactant | 1-p-chlorophenyl-3-azabicyclo[3.1.0]hexane | ClC1=CC=C(C=C1)C12CNCC2C1 | C11H12ClN
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-norbornene-2-carbonyl chloride | C12C(CC(C=C1)C2)C(=O)Cl | C8H9ClO
product | 3-(5-Norbornen-2-ylcarbonyl)-1-(p-chlorophenyl)-3-azabicyclo[3.1.0]hexane | C12C(CC(C=C1)C2)C(=O)N2CC1(CC1C2)C2=CC=C(C=C2)Cl | C19H20ClNO
